US04877793
A mixture of methyl 3-amino-5-phenylthiophene-2-carboxylate (9.6 g) and 0.9M aqueous sodium hydroxide solution (50 ml) was stirred and boiled under reflux for 4 hours to give a solution of sodium 3-amino-5-phenylthiophene-2-carboxylate.

reactant | methyl 3-amino-5-phenylthiophene-2-carboxylate | 9.6 g | NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C12H11NO2S
reactant | sodium hydroxide | 0.9M, 50 ml | [OH-].[Na+]
product | sodium 3-amino-5-phenylthiophene-2-carboxylate | NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)[O-].[Na+] | InChI=1S/C11H9NO2S.Na/c12-8-6-9(15-10(8)11(13)14)7-4-2-1-3-5-7;/h1-6H,12H2,(H,13,14);/q;+1/p-1
